US03953500
In 100 ml. of acetic acid is dissolved 7.3 g. of ethyl 4-benzylindan-1-carboxylate and, under cooling with ice, 3.4 g. of chromic anhydride is added. After the mixture is stirred overnight, the reaction mixture is poured over 500 g. of ice and extracted with chloroform. The extract is washed with water and dried. The solvent is distilled off under reduced pressure and the residue is purified by column chromatography (700 g. silica gel; eluted with a 40:1 mixture of benzene and ethyl acetate). The procedure gives ethyl 4-benzoylindan-1-carboxylate as an oily product.

reactant | ethyl 4-benzylindan-1-carboxylate | C(C1=CC=CC=C1)C1=C2CCC(C2=CC=C1)C(=O)OCC | C19H20O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | ethyl 4-benzoylindan-1-carboxylate | C(C1=CC=CC=C1)(=O)C1=C2CCC(C2=CC=C1)C(=O)OCC | C19H18O3
